US08114872B2
2-(2-(5-(Hydroxymethyl)-1H-1,2,3-triazol-1-yl)ethyl)isoindoline-1,3-dione
Heat a mixture of 2-(2-azidoethyl)isoindoline-1,3-dione (12 g, 55.5 mmol) and 2-propyn-1-ol (3.88 mL, 66.6 mmol) in toluene (50 mL) in a sealed reactor at 90° C. for 3 days. Cool to RT and collect the solid. Purify by column chromatography (DCM to 2% methanol in DCM) to afford the title compound (first fraction) as a white solid (4.7 g, 31%). MS (EI) m/z 273 [M+1]+.

reactant | 2-(2-azidoethyl)isoindoline-1,3-dione | 55.5 mmol, 12 g | N(=[N+]=[N-])CCN1C(C2=CC=CC=C2C1=O)=O | C10H8N4O2
reactant | 2-propyn-1-ol | 66.6 mmol, 3.88 mL | C(C#C)O | C3H4O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-(5-(Hydroxymethyl)-1H-1,2,3-triazol-1-yl)ethyl)isoindoline-1,3-dione | 4.7 g, 31% | OCC1=CN=NN1CCN1C(C2=CC=CC=C2C1=O)=O | C13H12N4O3
